US09023865B2
Sodium hypochlorite (121 mL, 195 mmol) was gradually added to a suspension of 6-chloro-1H-pyrazolo[4,3-c]pyridine (10 g, 65.1 mmol) in EtOH (100 mL) at 0° C. The reaction mixture was then stirred at room temperature for 10 minutes. Water and sodium sulfite (24.62 g, 195 mmol) were added, forming a clear solution, and the mixture was extracted with EtOAc. The organic phase was concentrated in vacuo to give 3,6-dichloro-1H-pyrazolo[4,3-c]pyridine (11.6 g, 61.7 mmol, 95% yield). MS ESI calc'd. for C6H4Cl2N3 [M+H]+ 188, found 188.

reactant | Sodium hypochlorite | 195 mmol, 121 mL | Cl[O-].[Na+]
reactant | 6-chloro-1H-pyrazolo[4,3-c]pyridine | 65.1 mmol, 10 g | ClC1=CC2=C(C=N1)C=NN2 | C6H4ClN3
reactant | Water | O | H2O
reactant | sodium sulfite | 195 mmol, 24.62 g | S(=O)([O-])[O-].[Na+].[Na+]
solvent | EtOH | 100 mL | CCO | C2H6O
product | 3,6-dichloro-1H-pyrazolo[4,3-c]pyridine | 61.7 mmol, 11.6 g, 95% yield | ClC1=NNC2=C1C=NC(=C2)Cl | C6H3Cl2N3
